US06586617B1
To a solution of 4-aminobenzonitrile (2.36 g (20.0 mmol))in pyridine (10 ml), 4-chlorobenzenesulfonyl chloride (4.35 g (20.6 mmol)) was added under cooling in a water bath (15° C.). After 18 hours' stirring at room temperature, water (100 ml) was added to the reaction mixture and the stirring was continued to bring about separation of crystals, which were then collected by filtration and washed with water to give 4.45 g (76%) of 4-chloro-4′-cyanobenzenesulfonanilide as pale orange crystals.

reactant | 4-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorobenzenesulfonyl chloride | 20.6 mmol, 4.35 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | water | 100 ml | O | H2O
product | 4-chloro-4′-cyanobenzenesulfonanilide | 4.45 g, 76% | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C#N | C13H9ClN2O2S
